US07576095B2
Step 8 1-(2-Chlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-4-one
2-Bromo-1-(2-chlorophenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-4-one (0.92 g, 2.25 mmol), 4-hydroxyphenylboronic acid (0.35 g, 2.50 mmol) and tetrakis(triphenylphosphine)palladium(0) (350 mg) were dissolved in DME (46 ml) and 1 M Na2CO3 (12 ml)). The resulting solution was degassed and heated at 60° C. under nitrogen overnight. Water and EtOAc were added after cooling and the aqueous phase extracted with EtOAc (×3). The combined organic extracts were dried (Na2SO4), filtered and concentrated to give a crude product that was purified by flash chromatography (heptane:EtOAc gradient) to afford 0.54 g (55%) of the product as a pale yellow solid.

reactant | 2-Bromo-1-(2-chlorophenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-4-one | 2.25 mmol, 0.92 g | BrC1=C(C=2C(N(CCC2N1C1=C(C=CC=C1)Cl)N1CCCCC1)=O)C | C19H21BrClN3O
reactant | 4-hydroxyphenylboronic acid | 2.50 mmol, 0.35 g | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | Na2CO3 | 1 M, 12 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 46 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 350 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(2-Chlorophenyl)-2-(4-hydroxyphenyl)-3-methyl-5-piperidin-1-yl-1,5,6,7-tetrahydro-pyrrolo[3,2-c]pyridine-4-one | 0.54 g, 55% | ClC1=C(C=CC=C1)N1C(=C(C=2C(N(CCC21)N2CCCCC2)=O)C)C2=CC=C(C=C2)O | C25H26ClN3O2
